US07777047B2
N-(5-(2-methoxyethoxy)-2-{5-[(1-oxidothiomorpholino)methyl]-4,5-dihydro-1,3-thiazol-2-yl}-1H-indol-7-yl)pyridine-2-sulfonamide
To a solution of triphenylphosphine oxide (470 mg) in dichloromethane (3 mL) was added trifluoromethanesulfonic anhydride (480 mg) under ice-cooling, and the mixture was stirred for 30 min. A solution of N-[2-(benzylthio)-3-thiomorpholinopropyl]-5-(2-methoxyethoxy)-7-[(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxamide (570 mg) and thioanisole (210 mg) in dichloromethane (20 mL) was added dropwise to the reaction mixture under ice-cooling, and the mixture was stirred for 3 hr under ice-cooling. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography, and eluted with hexane-ethyl acetate (1:1-1:9, volume ratio) to give colorless crystals. To a mixture of the obtained crystals, ethanol (20 mL), water (10 mL) and tetrahydrofuran (10 mL) was added OXONE (registered trade mark, 43 mg) at room temperature, and the mixture was stirred at room temperature for 2 hr. Aqueous sodium sulfite solution was added to the reaction mixture, the mixture was stirred for 30 min, and the organic solvent was evaporated under reduced pressure. The residue was extracted with a mixed solvent of ethyl acetate-tetrahydrofuran. The organic layer was washed with saturated brine, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography, and eluted with ethyl acetate-methanol (100:0-90:10, volume ratio) to give colorless crystals. The obtained crystals was further purified by preparative HPLC, and recrystallized from acetone-methanol to give the title compound (30 mg, yield 6.1%) as colorless prism crystals. melting point 235-236° C.

reactant | triphenylphosphine oxide | 470 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
reactant | trifluoromethanesulfonic anhydride | 480 mg | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | N-[2-(benzylthio)-3-thiomorpholinopropyl]-5-(2-methoxyethoxy)-7-[(pyridin-2-ylsulfonyl)amino]-1H-indole-2-carboxamide | 570 mg | C(C1=CC=CC=C1)SC(CNC(=O)C=1NC2=C(C=C(C=C2C1)OCCOC)NS(=O)(=O)C1=NC=CC=C1)CN1CCSCC1 | C31H37N5O5S3
reactant | thioanisole | 210 mg | C1(=CC=CC=C1)SC | C7H8S
reactant | OXONE | 43 mg | OOS(=O)[O-].[K+]
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | N-(5-(2-methoxyethoxy)-2-{5-[(1-oxidothiomorpholino)methyl]-4,5-dihydro-1,3-thiazol-2-yl}-1H-indol-7-yl)pyridine-2-sulfonamide | 30 mg, yield 6.1% | COCCOC=1C=C2C=C(NC2=C(C1)NS(=O)(=O)C1=NC=CC=C1)C=1SC(CN1)CN1CCS(CC1)=O | C24H29N5O5S3
